US05866564
(2S,4S)-4-Mercapto-2-(4-[2-(4-nitrobenzyloxycarbonyl)oxyethyl]-1-piperazinylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
20 ml of a 5% w/v aqueous solution of sodium hydrogencarbonate was added to 862 mg of (2S,4S)-4-mercapto-2-{4-[2-(4-nitrobenzyloxycarbonyl)oxyethyl]-1-piperazinylcarbonyl}-1-(4-nitrobenzyloxycarbonyl)pyrrolidine bis(trifluoromethanesulfonate), and the mixture was extracted with 50 ml of ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 20:1 by volume mixture of ethyl acetate and methanol as the eluent, to afford 514 mg of the title compound, as a powder.

reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | (2S,4S)-4-mercapto-2-{4-[2-(4-nitrobenzyloxycarbonyl)oxyethyl]-1-piperazinylcarbonyl}-1-(4-nitrobenzyloxycarbonyl)pyrrolidine bis(trifluoromethanesulfonate) | 862 mg | FC(S(=O)(=O)O)(F)F.FC(S(=O)(=O)O)(F)F.S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)CCOC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
product | (2S,4S)-4-Mercapto-2-(4-[2-(4-nitrobenzyloxycarbonyl)oxyethyl]-1-piperazinylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 514 mg | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)CCOC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C27H31N5O10S
